US04011238
EXAMPLE 10: 1-(p-Chlorophenyl)-3-(2-chloro-1-methylethyl)-4-methyl-2-imidazolidinone
To a solution of 16 g. of 1-(p-chlorophenyl)-3-(1-(hydroxymethyl)ethyl)-4-methyl-2-imidazolidinone in 400 ml. of anhydrous chloroform, 14.5 g. of SOCl2 is added dropwise with stirring while the temperature is maintained at 0° C. The mixture is then refluxed for 45 minutes, concentrated under vacuum and taken up with benzene, then evaporated to dryness again, yielding 15.1 grams (94%) of the title compound, m.p. 70°-72° C. (from diisopropyl ether). The corresponding m-chlorophenyl-substituted compound is prepared in the same way. Yield 97%, b.p. 200° C./0.5 mm Hg.

reactant | 1-(p-chlorophenyl)-3-(1-(hydroxymethyl)ethyl)-4-methyl-2-imidazolidinone | ClC1=CC=C(C=C1)N1C(N(C(C1)C)C(C)CO)=O | C13H17ClN2O2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(p-Chlorophenyl)-3-(2-chloro-1-methylethyl)-4-methyl-2-imidazolidinone | 15.1 grams, 94% | ClC1=CC=C(C=C1)N1C(N(C(C1)C)C(CCl)C)=O | C13H16Cl2N2O
